US07384934B2
2-(4-Chloro-2-nitro-phenylamino)-5-methyl-benzonitrile
Heat a solution of 2-fluoro-5-methyl-benzonitrile (2.0 g, 14.80 mmol) with 4-chloro-2-nitro-phenylamine (2.5 g, 14.80 mmol) and lithium hydroxide monohydrate (1.24 g, 29.60 mmol) in DMSO (30 ml) to 55° C. for 14 hours. Add an additional 0.61 g (14.80 mmol) of lithium hydroxide monohydrate, and increase heating to 70° C., continue for another 14 hours. Cool the reaction to ambient temperature and pour into a mixture of 100 ml water and 200 ml ethyl acetate. Extract with three 200 ml portions of ethyl acetate. Combine organic layers, dry over sodium sulfate and evaporate solvent. Purify the residue via flash chromatography eluting with a step gradient starting with 90% hexanes: 10% ethyl acetate and going to 40% hexanes: 60% ethyl acetate to obtain 1.63 g (5.67 mmol, 38% yield) of the title compound as a red-orange amorphous solid: Mass Spectrum (m/e): 288 (M+1).

reactant | 2-fluoro-5-methyl-benzonitrile | 14.80 mmol, 2.0 g | FC1=C(C#N)C=C(C=C1)C | C8H6FN
reactant | 4-chloro-2-nitro-phenylamine | 14.80 mmol, 2.5 g | ClC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | lithium hydroxide monohydrate | 29.60 mmol, 1.24 g | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 14.80 mmol, 0.61 g | O.[OH-].[Li+]
reactant | water | 100 ml | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-Chloro-2-nitro-phenylamino)-5-methyl-benzonitrile | 5.67 mmol, 1.63 g, 38% yield | ClC1=CC(=C(C=C1)NC1=C(C#N)C=C(C=C1)C)[N+](=O)[O-] | C14H10ClN3O2
